US07714126B2
With a procedure similar to example 16 above, 2-(2-chloro-phenyl)-5-propyl-oxazole-4-carboxylic acid [6-(ethyl-methyl-amino)-pyridin-3-yl]-amide was prepared from 2-(2-chloro-phenyl)-5-propyl-oxazole-4-carboxylic acid and N2-ethyl-N2-methyl-pyridine-2,5-diamine. LCMS calcd for C21H23ClN4O2 (m/e) 398, obsd 399 (M+H).

reactant | 2-(2-chloro-phenyl)-5-propyl-oxazole-4-carboxylic acid | ClC1=C(C=CC=C1)C=1OC(=C(N1)C(=O)O)CCC | C13H12ClNO3
reactant | N2-ethyl-N2-methyl-pyridine-2,5-diamine | C(C)N(C1=NC=C(C=C1)N)C | C8H13N3
product | 2-(2-chloro-phenyl)-5-propyl-oxazole-4-carboxylic acid [6-(ethyl-methyl-amino)-pyridin-3-yl]-amide | C(C)N(C1=CC=C(C=N1)NC(=O)C=1N=C(OC1CCC)C1=C(C=CC=C1)Cl)C | C21H23ClN4O2
